US07199139B2
2-(4-Chlorophenoxy)-3-[4-[2-[[1-[4-(2-pyridyl)phenyl]ethylidene]aminoxy]ethoxy]phenyl]propionic acid
To a solution of ethyl 2-(4-chlorophenoxy)-3-[4-[2-[[1-[4-(2-pyridyl)phenyl]ethylidene]aminoxy]ethoxy]phenyl]propionate (500 mg) obtained from Reference example 2 in ethanol (8 ml) was added an aqueous sodium hydroxide solution (1N, 1.79 ml), and the resulting solution was heated under reflux for 3 hours. The reaction solution was concentrated under reduced pressure, hydrochloric acid (1N) was added thereto to neutralize the solution, and then ethyl acetate was added thereto to extract the target compound. The separated organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crude product was purified by chromatography on a silica gel column (eluant; methylene chloride/methanol=9/1) to afford the target compound (169 mg) as a colorless foam.

reactant | ethyl 2-(4-chlorophenoxy)-3-[4-[2-[[1-[4-(2-pyridyl)phenyl]ethylidene]aminoxy]ethoxy]phenyl]propionate | 500 mg | ClC1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCON=C(C)C2=CC=C(C=C2)C2=NC=CC=C2)C=C1 | C32H31ClN2O5
reactant | sodium hydroxide | 1N, 1.79 ml | [OH-].[Na+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 2-(4-Chlorophenoxy)-3-[4-[2-[[1-[4-(2-pyridyl)phenyl]ethylidene]aminoxy]ethoxy]phenyl]propionic acid | 169 mg | ClC1=CC=C(OC(C(=O)O)CC2=CC=C(C=C2)OCCON=C(C)C2=CC=C(C=C2)C2=NC=CC=C2)C=C1 | C30H27ClN2O5
